spice
*SPICE Netlist
V1 2 0 DC 6V
V2 4 0 DC -6V
Vin 1 0

Q1 2 2 3 QNPN
Q2 2 2 4 QPNP
Q3 27 3 6 QNPN
Q4 6 27 5 QNPN
Q5 2 2 4 QPNP
Q6 5 3 4 QNPN

R1 2 27 5k
R2 2 2 10k
R3 3 1 20k
R4 2 2 10k
R5 3 5 5k
R6 6 0 5k
R7 5 0 5k
R8 3 4 2k
R9 4 0 1k

.model QNPN NPN
.model QPNP PNP