plaintext
* SPICE Netlist
* Nodes: C, B, E
* Components

I1 C B DC BETA_Ib ; Current Source

D1 B E DIODE_BE_MODEL; Diode with V_BE, ON = 0.6V
D2 C B DIODE_BC_MODEL; Diode with V_BC, ON = 0.4V

.model DIODE_BE_MODEL D (IS=1e-14 N=1.0 VJE=0.6)
.model DIODE_BC_MODEL D (IS=1e-14 N=1.0 VJE=0.4)

.END