spice
* Diodes
D1 2 3 D_model
D2 3 6 D_model

* Current Sources
I1 2 3 DC alpha_if
I2 6 3 DC alpha_iR

* Nodes:
* 2: C
* 3: B
* 6: E

* Models (example placeholder, can be defined as needed)
.model D_model D(Is=1e-14 N=1)