spice
* SPICE Netlist
* Diodes
D1 B 9 D_Model
D2 B 11 D_Model

* Current Sources
I1 8 13 DC I_CS
I2 10 12 DC I_ES

* Transistors modeled as current sources
I_T1 3 13 DC α_FiF
I_T2 5 13 DC α_RiR
I_T3 1 12 DC α_FiF
I_T4 4 12 DC α_RiR

* Models for Diodes and Transistors
.model D_Model D
.param I_CS=1m
.param I_ES=1m
.param α_FiF=1m
.param α_RiR=1m

* Other Parameters
V1 C 0 DC 5V
V2 E 0 DC 0V