spice
* SPICE Netlist

VDD 5 0 DC 5V

I1 9 0 DC 1

M1 6 6 5 5 PMOS W=100u L=2u
M2 31 4 0 0 NMOS W=100u L=2u
M3 3 3 5 5 PMOS W=100u L=2u
M4 5 2 5 5 PMOS W=100u L=2u
M5 2 8 4 0 NMOS W=100u L=2u
M6 8 2 0 0 NMOS W=100u L=2u
M7 4 20 0 0 NMOS W=100u L=2u

R1 3 0 100

* End of Netlist