spice
* SPICE Netlist

VCC 4 0 DC VCC
VT 9 6 DC V_T

RT 1 9 1k
RB1 4 5 100k
RB2 5 7 10k
RC 4 2 1k
RE 2 7 100
RL 3 8 1k

CJ 9 5 1u
CO 3 8 1u
CE 2 7 10u

Q1 2 5 7 QMODEL

.model QMODEL NPN(IS=1e-14 BF=100)

.end