spice
* SPICE Netlist for the given schematic

* Voltage Sources
VDD 5 6 DC 5V
VT1 7 2 DC V_T1_value
VT2 4 2 DC V_T2_value
VSS 2 0 DC -V_SS_value

* Current Source
IBIAS 2 0 DC I_BIAS_value

* Resistors
R0 6 5  R0_value
R11 7 3 R11_value
R12 4 2 R12_value

* Ground References
VSS 2 0 0V

* Node Definitions for clarity
* Node 3 and node 2 might serve as intermediary or ground connections

.end