spice
* SPICE Netlist for the given circuit

Q1 6 7 0 NPN
Q2 4 2 0 NPN
Q3 3 5 2 NPN

VCC VCC 0 DC <value_of_VCC> 
VEE 0 VEE DC <value_of_VEE>

R1 VCC 6 <value_of_R1>

IBIAS1 VCC 4 DC <value_of_IBIAS1>
IBIAS2 VCC 3 DC <value_of_IBIAS2>

.end