* SPICE Netlist for the schematic

VCC 4 0 DC VCC
VT 6 10 DC 0

RB1 4 2 RB1
RB2 2 9 RB2
RC1 4 7 RC1
RC2 4 2 RC2
RE1 3 8 RE1
RE2 3 2 RE2
RL 2 3 RL
RT 6 9 RT

C1 6 2 C1
CE1 3 9 CE1
CE2 3 2 CE2
CO 2 3 CO

Q1 2 9 3 QNPN
Q2 2 8 3 QNPN

.END