plaintext
* Differential Amplifier SPICE Netlist

Q1 5 6 4 NPN
Q2 5 7 4 NPN

RC 8 5 10k
RT1 6 1 1k
RT1 7 2 1k

VIN1 1 0 DC 0V
VIN2 2 0 DC 0V
VCC 8 0 DC 15V
VEE 0 3 DC -15V

IBIAS 3 4 DC 1mA

.end