* Transistor Definitions
* For PMOS (source to power): order (Drain, Gate, Source)
* For NMOS (source to ground): order (Drain, Gate, Source)
Q1 9 3 2 PMOS
Q2 2 22 9 PMOS
Q3 7 4 5 NMOS
Q4 10 2 7 NMOS
Q5 8 2 10 NMOS
Q6 4 3 4 NMOS
Q7 5 5 5 NMOS
Q8 2 6 5 NMOS
Q9 10 2 2 NMOS
Q10 6 2 2 NMOS

* Diodes
D1 9 2 
D2 12 8

* Resistor
R1 511 5

* Nets
V1 3 0 DC Vin1
V2 4 0 DC Vin2
V+ 2 0 DC V+
V- 5 0 DC V-

* Output
RL 8 0 
VOUT 12 0