plaintext
* SPICE Netlist

M_Q1 2 10 0 0 NMOS
M_Q2 4 2 5 5 PMOS
M_Q3 2 8 0 0 NMOS
M_Q4 2 8 0 0 NMOS
M_Q5 4 3 5 5 PMOS
M_Q6 4 2 5 5 PMOS

R_R2 4 5 R2_Value

I_IBIAS1 2 0 DC IBIAS1_Value
I_IBIAS2 5 0 DC IBIAS2_Value

.END