plaintext
* SPICE netlist
V1 9 6 DC 0
R1 9 7 RT
R2 3 2 RB1
R3 2 0 RB2
R4 4 0 RE
R5 3 5 RC
R6 8 0 RL
C1 7 2 C1
C0 5 8 C0
CE 4 0 CE
Q1 3 2 4 QMOD
.model QMOD NPN