spice
* SPICE Netlist
* Components and connections

C1 6 4 CM_1_Av  ; Capacitor C_{M}(1 - A_v) connected between nodes 6 and 4
C2 5 3 CM        ; Capacitor C_M connected between nodes 5 and 3
V1 7 2 AvVin     ; Voltage source A_v v_in connected with positive terminal at node 7 and negative terminal at node 2

* Node descriptions
* Node 1: v_in
* Node 2: Ground
* Node 3: Node connecting C_M to V1
* Node 4: Ground connection for C_{M}(1 - A_v)
* Node 5: v_out
* Node 6: Positive input for C_{M}(1 - A_v)
* Node 7: Positive terminal of voltage source

.END