* SPICE Netlist
V1 10 11 DC 0

RS 10 3 1000  ; Replace 1000 with actual resistance value
RPI 3 9 1000  ; Replace 1000 with actual resistance value
RX 9 2 1000   ; Replace 1000 with actual resistance value

CPI 3 5 1E-12 ; Replace 1E-12 with actual capacitance value
CMU 2 4 1E-12 ; Replace 1E-12 with actual capacitance value

G1 4 6 VALUE {gm*V(3,9)} ; VOLTAGE-CONTROLLED CURRENT SOURCE, gm = transconductance gain

ROL 6 7 1000  ; Replace 1000 with actual resistance value

.END