spice
* SPICE Netlist
* Components identified from schematics

Vi 9 0 DC v_i
Rf 9 8 R_f
Gm1 8 0 1010 9 g_m1(1+η)  ; Voltage controlled current source
Cij 8 6 C_ij
Vout 11 0 DC v_out
RL 11 11 R_L
Gm2 5 0 7 2 g_m2(1+η)    ; Voltage controlled current source
Cbd 5 12 C_bd

* Node mapping
* 1: Ground (0)
* 2: Connected to terminal 6 of Cij
* 3: Terminal 6 of Cij
* 4: Terminal 5 of Cbd
* 5: Connected to current source Gm2
* 6: Connected to node of Cij
* 7: Control node for Gm2
* 8: Node after Rf
* 9: Positive terminal of Vi
* 10: Negative terminal of Vi
* 11: Positive terminal of RL
* 12: Connected to node of Cbd

.end