plaintext
* SPICE Netlist

Vpi1 7 3 DC <value> 
Rpi1 2 3 rpi1 
Cpi1 2 3 Cpi1 
Gm1 4 0 6 5 gm1

Cmu1 6 9 Cmu1 

Vpi2 5 5 DC <value> 
Rpi2 5 3 rpi2 
Cpi2 5 10 Cpi2 
Gm2 3 0 8 5 gm2

Cmu2 8 3 Cmu2

Vin 9 0 DC <value>

Vout 10 0 DC <value>

* Define values for components
.param rpi1=<value> rpi2=<value> Cpi1=<value> Cpi2=<value> 
.param Cmu1=<value> Cmu2=<value> gm1=<value> gm2=<value>