spice
* SPICE Netlist
VCC 3 0 DC VCC

I1 6 3 DC I

D1 1 5 DMODEL
D2 7 5 DMODEL

RC 3 4 RC

Q1 4 5 8 QMODEL

VIN 1 0 AC 1

* Models
.model DMODEL D
.model QMODEL NPN(IS=1E-14 BF=100)

.END