spice
* SPICE Netlist

Q1 7 1 2 NPN
Q2 7 5 2 NPN
Q3 8 8 4 NPN

R1 3 1 10k
R2 3 8 10k
R3 1 5 10k
R4 4 6 10k

I3 6 2 DC 1mA

VREF 2 6 DC 5V
VCC 3 6 DC 15V

.END