spice
* Components
V_ac 5 3 SIN(0 1 60)   ; AC voltage source with 1V peak at 60Hz
V1 3 4 DC 2            ; DC voltage source 2V
V2 3 2 DC 4            ; DC voltage source 4V

R1 5 3 10k             ; Resistor R1 = 10 kΩ
R2 3 2 10k             ; Resistor R2 = 10 kΩ

D1 3 4 D_Model         ; Diode D1
D2 2 3 D_Model         ; Diode D2

.model D_Model D       ; Default diode model

* End of Netlist